US07420090B2
This Example describes the preparation of 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-(1,2,4-triazol-1-yl)-hept-4-yn-6-yl) butyramide (Compound No. 4 in Table 56)
To a stirred solution of 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide (0.59 g) in dry N,N-dimethylformamide (10 ml) containing anhydrous potassium carbonate (0.28 g) was added 1,2,4-triazole (0.10 g). The mixture was heated to 90° C. for 2.75 hours, cooled to ambient temperature, diluted with water and extracted with ethyl acetate (three times). The extracts were combined, washed with brine, dried over magnesium sulphate then evaporated under reduced pressure to give a yellow oil. The oil was fractionated by chromatography (silica; hexane/ethyl acetate, 2:1 by volume followed by ethyl acetate) to give the required product as a colourless oil, 0.16 g, 1H NMR (CDCl3) δ: 1.00-1.06(3H, t); 1.60(3H, s); 1.62(3H, s); 1.92-2.14(6H, m); 4.38-4.44(3H, m); 6.26(1H, s); 6.84(2H, s); 7.04(1H, s); 7.96(1H, s); 8.32(1H, s).

reactant | 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide | 0.59 g | ClC=1C=C(OC(C(=O)NC(C#CCCCCl)(C)C)CC)C=C(C1)Cl | C18H22Cl3NO2
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2,4-triazole | 0.10 g | N1N=CN=C1 | C2H3N3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,5-dichlorophenoxy)-N-(6-methyl-1-(1,2,4-triazol-1-yl)-hept-4-yn-6-yl) butyramide | ClC=1C=C(OC(C(=O)NC(C#CCCCN2N=CN=C2)(C)C)CC)C=C(C1)Cl | C20H24Cl2N4O2
